US08048902B2
Step 6: (4′-{4-[(R)-1-(2-Fluoro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-2′-methyl-biphenyl-4-yl)-acetic acid ethyl ester
[5-(4-Bromo-3-methyl-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-fluoro-phenyl)-ethyl ester (0.350 g, 0.80 mmol), [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester (0.292 g, 0.96 mmol), and sodium bicarbonate (0.235 g, 2.8 mmol) were combined in 2:1 DME:water (11 mL), and the solution was purged with N2 for 5 minutes. Bis(triphenylphosphine)palladium(II) dichloride (0.030 g, 0.04 mmol) was added, and the reaction was stirred at 80° C. for 2 hour. After work-up, the crude material was purified by silica gel chromatography to give the title compound.

reactant | [5-(4-Bromo-3-methyl-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-fluoro-phenyl)-ethyl ester | 0.80 mmol, 0.350 g | FC1=C(C=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC(=C(C=C1)Br)C)C)=O | C20H18BrFN2O3
reactant | [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | 0.96 mmol, 0.292 g | C(C)OC(CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO4
reactant | sodium bicarbonate | 2.8 mmol, 0.235 g | C([O-])(O)=O.[Na+]
catalyst | Bis(triphenylphosphine)palladium(II) dichloride | 0.04 mmol, 0.030 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DME | COCCOC | C4H10O2
product | (4′-{4-[(R)-1-(2-Fluoro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-2′-methyl-biphenyl-4-yl)-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)C1=C(C=C(C=C1)C1=C(C(=NO1)C)NC(=O)O[C@H](C)C1=C(C=CC=C1)F)C)=O | C30H29FN2O5
